US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(4-hydroxymethyl-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound [(3S,4R)-4-(4-chloro-phenyl)-1-(4-hydroxymethyl-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 4-hydroxymethyl-1-cyclohexanecarboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as an off-white solid. MS m/e: 489.2 [M+H]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | 4-hydroxymethyl-1-cyclohexanecarboxylic acid | OCC1CCC(CC1)C(=O)O | C8H14O3
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(4-hydroxymethyl-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCC(CC1)CO)=O | C26H30ClFN2O4
